US09317012B2
In a 1 L flask, 138.8 g (613 mmol) of (2E)-1-(4-fluorophenyl)-3-phenylprop-2-en-1-one were dissolved in 825 g of methanol, admixed with 187.0 g (3.06 mol) of nitromethane and 224.1 g (3.06 mol) of diethylamine and refluxed for 16 h. The solvent was half distilled off in vacuo and the precipitated solid was separated off and dried to constant weight in vacuo to obtain 167.7 g (583 mmol) of 1-(4-fluorophenyl)-4-nitro-3-phenylbutan-1-one.

reactant | (2E)-1-(4-fluorophenyl)-3-phenylprop-2-en-1-one | 613 mmol, 138.8 g | FC1=CC=C(C=C1)C(\C=C\C1=CC=CC=C1)=O | C15H11FO
reactant | nitromethane | 3.06 mol, 187.0 g | [N+](=O)([O-])C | CH3NO2
reactant | diethylamine | 3.06 mol, 224.1 g | C(C)NCC | C4H11N
solvent | methanol | 825 g | CO | CH4O
product | 1-(4-fluorophenyl)-4-nitro-3-phenylbutan-1-one | 583 mmol, 167.7 g | FC1=CC=C(C=C1)C(CC(C[N+](=O)[O-])C1=CC=CC=C1)=O | C16H14FNO3
